US07179823B1
To a solution of ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (1.00 g) in tetrahydrofuran (80 ml), sodium hydride (60%, oily, 100 mg) was added at 0° C., and the solution was stirred for 30 minutes. N-Phenyltrifluoromethanesulfonimide (930 mg) was added to the reaction mixture, which was stirred at room temperature for two hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate was washed with saturated aqueous sodium bicarbonate solution, 1 N hydrochloric acid, then, with saturated sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-trifluoromethanesulfonyloxy-1H-pyrazol-4-yl]propionate was obtained (1.31 g, yield: 100%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | ethyl 3-[3-hydroxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 1.00 g | OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C26H27N3O5
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | N-Phenyltrifluoromethanesulfonimide | 930 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | ethyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-trifluoromethanesulfonyloxy-1H-pyrazol-4-yl]propionate | yield: 100% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)OS(=O)(=O)C(F)(F)F)C=C1 | C27H26F3N3O7S
